US07442698B2
N-Formyl-4-(2-methoxy-4-nitrophenoxymethyl)piperidine
4-Nitroguaiacol (2 g, 11.8 mmol), N-formyl 4-piperidinemethanol (1.13 g, 7.89 mmol) and polymer-supported triphenylphosphine (3 mmol/g, 3.94 g, 11.8 mmol) were dissolved in tetrahydrofuran (30 mL). The mixture was cooled to 0° C. and diisopropyl azodicarboxylate (2.33 mL, 11.8 mmol) was added dropwise. The mixture was stirred at 0° C. for 30 min then at 20° C. overnight. The resin was filtered off, washed with dichloromethane then methanol and the filtrate evaporated to give a deep orange oil. The oil was taken up in dichloromethane, washed with 2M NaOH, 2M HCl then brine, dried and evaporated giving a pale brown oil. This was taken up in 50:50 ethyl acetate : hexane, filtered through celite, filtrate evaporated, taken up in ethyl acetate and washed further with 1M NaOH. The organic layer was separated, dried over Na2SO4, the solvent removed under reduced pressure and the residue columned in 50:50 ethyl acetate: hexane to remove impurities. The product was then eluted with 9:1 dichloromethane : methanol to give a yellow oil, which crystallised on cooling. 1H NMR (400 MHz, CDCl3): 1.15-1.3 (2H, m); 1.85-1.9 (1H, m); 2.6-2.7 (1H, m); 3-3.1 (1H, m); 3.7-3.8 (1H, m); 4.0 (2H, d, J 7 Hz); 4.15-4.25 (1H, m); 7.2 (1H, d, J 8 Hz); 7.75 (1H, d, J 2 Hz); 7.9 (1H, dd, J 2 and 8 Hz); 8 (1H, s).

reactant | 4-Nitroguaiacol | 11.8 mmol, 2 g | [N+](=O)([O-])C=1C=C(C(=CC1)OC)O | C7H7NO4
reactant | N-formyl 4-piperidinemethanol | 7.89 mmol, 1.13 g | C(=O)N1CCC(CC1)CO | C7H13NO2
reactant | triphenylphosphine | 11.8 mmol, 3.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 11.8 mmol, 2.33 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Formyl-4-(2-methoxy-4-nitrophenoxymethyl)piperidine | C(=O)N1CCC(CC1)COC1=C(C=C(C=C1)[N+](=O)[O-])OC | C14H18N2O5
